US07652022B2
[4-(6-Hydroxy-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester
Raney Nickel (6.0 g, in EtOH) is added to a suspension of [4-(6-hydroxy-2-mercapto-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester (2.0 g, 5.99 mmol) in MeOH (58 mL), under an argon atmosphere. The resulting mixture is heated to reflux for 2 h (oil bath is pre-heated to 90-95° C.), allowed to cool to rt, filtered through a pad of celite and concentrated in vacuo. The residue is purified by silica gel (160 g) column chromatography (CH2Cl2/MeOH, 95/5, then 90/10) to provide the title compound as a white solid: ES-MS: 302.1 [M+H]+; single peak at tR=6.54 min (System 2); Rf=0.34 (CH2Cl2/MeOH, 90/10).

reactant | [4-(6-hydroxy-2-mercapto-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | 5.99 mmol, 2.0 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=NC(=NC(=C1)O)S)=O | C16H19N3O3S
catalyst | Raney Nickel | 6.0 g | [Ni] | Ni
solvent | MeOH | 58 mL | CO | CH4O
product | [4-(6-Hydroxy-pyrimidin-4-ylmethyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC1=NC=NC(=C1)O)=O | C16H19N3O3
